2136-06-09 07:18:00 Physician Resident Progress Note
Chief Complaint: 62F with PMH ESRD on HD with history of multiple line
   infections, now with bacteremia and acute bacterial cystitis
   24 Hour Events:
 BLOOD CULTURED - At [**2136-6-8**] 12:00 PM -[**6-22**] blood cultures positive
   for GPC's in clusters, so IR removed her tunneled line, and per renal
   recs she will be on a line holiday until Monday.  Therefore she is on
   fluid restriction.
 ULTRASOUND - At [**2136-6-8**] 01:15 PM
   RU chest wall u/s to r/o infection around tunneled HD line, -Ultrasound
   of line site without abscess
 TRANSTHORACIC ECHO - At [**2136-6-8**] 01:45 PM-TTE came back with no
   vegetations, but renal would like a TEE to formerly rule this out.  As
   she is adequately covered on vanc, we can wait on this and re-address
   in AM.
 DIALYSIS CATHETER - STOP [**2136-6-8**] 02:15 PM
   -Urine cultures are growing E. coli, left on cefepime, we can narrow
   this as sensitivities come back.
   -Wound care consulted, and discussed recs with nursing
   Allergies:
   Penicillins
   Rash;  Shortnes
   Last dose of Antibiotics:
   Cefipime - [**2136-6-8**] 11:46 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-6-8**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-6-9**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 110 (88 - 110) bpm
   BP: 97/65(69) {82/31(46) - 134/113(140)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,060 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S2: Normal), (Murmur: Systolic),
   Systolic murmur, [**2-22**], radiates to the axilla
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese, TTP
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   559 K/uL
   11.4 g/dL
   90 mg/dL
   4.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   35 mg/dL
   95 mEq/L
   136 mEq/L
   39.0 %
   9.3 K/uL
         [image002.jpg]
                             [**2136-6-8**]  04:45 AM
                             [**2136-6-8**]  08:00 AM
                             [**2136-6-9**]  03:01 AM
   WBC
   13.1
   9.3
   Hct
   39.7
   39.0
   Plt
   516
   559
   Cr
   3.5
   4.7
   Glucose
   96
   90
   Other labs: PT / PTT / INR:15.0/27.6/1.3, Albumin:3.6 g/dL, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: RIGHT UPPER EXTREMITY NON-VASCULAR ULTRASOUND: The
   hemodialysis catheter is visualized but no abscess or fluid collection
   is seen in the surrounding
   tissues.
   Echo: no vegetations
   Microbiology: Blood cultures: [**6-22**] positive for GPC in clusters, one
   speciating with coag + staph aureus
   Urine [**6-7**]: E. coli,  no sensitivities yet
   Catheter tip: Pending
   Assessment and Plan
   62F with PMH ESRD on HD with history of multiple line infections, now
   with bacteremia and acute bacterial cystitis
   # Staph Aureus bacteremia: [**6-22**] blood cultures with GPCs in clusters,
   one bottle speciated to coag + staph aureus
   -vancomycin dosing by levels
   -Daily vanc levels
   -TEE at the bedside to r/o endocarditits
   -HD line out, on line holiday until Monday
   -Follow up speciation/sensitivities on blood cultures and line tip
   # Acute bacterial cystitis: E. coli on culture, sensitivities pending
   -cefepime until sensitivities back, at which time we can narrow to
   bactrim vs. cipro
   -Foley removed
   -Per urology recs: instilling bladder with NS flushes
   -Awaite sensitivities
   # Hypotension: Known to medical service as having low cuff pressure
   readings despite normal mentation/ UOP.  Patient refusing A line, and
   is high risk given ? history of calciphylaxis
   -Monitor clinically, if not mentating/ or making urine, consider gentle
   fluids.  Must be careful as the patient is on a line holiday until
   monday.
   # ESRD on HD
   -Line holiday until monday, continue to fluid restrict 1L per day, and
   NO ELECTROLYTE REPLETION
   -Renal following
   -continue phos binder
   # Leg ulcers: healing well
   -wound care consult appreciated and communicated recs to nursing
   # OSA
   -Cannot tolerat CPAP
   # Hx DVT
   -Off coumadin
   -SQ heparin and pneumoboots
   # CHF: chronic diastolic dysfunction, TTE with EF 70%
   -ASA/statin
   # DM
   -Home insulin regimen
   ICU Care
   Nutrition:
   Comments: Renal diet
   Glycemic Control:  Comments: Fixed and ISS
   Lines:
   18 Gauge - [**2136-6-7**] 11:14 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2136-06-09 07:46:00 Physician Attending Progress Note
Chief Complaint: Fever
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 y/o F w/ MMP, anuric w/ esrd on HD, h/o recurrent line infections,
   DM
   c/o R  flank pain and decreased appetite x few days. Developed chills
   while at HD with T 99.9
 101.8
 presented to ED.
   24 Hour Events:
 BLOOD CULTURED - At [**2136-6-8**] 12:00 PM
 ULTRASOUND - At [**2136-6-8**] 01:15 PM
   RU chest wall u/s to r/o infection around tunneled HD line
 TRANSTHORACIC ECHO - At [**2136-6-8**] 01:45 PM
 DIALYSIS CATHETER - STOP [**2136-6-8**] 02:15 PM
   Allergies:
   Penicillins
   Rash;  Shortnes
   Last dose of Antibiotics:
   Cefipime - [**2136-6-8**] 11:46 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-6-8**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-6-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 110 (88 - 110) bpm
   BP: 97/65(69) {82/31(46) - 134/113(140)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,060 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   559 K/uL
   90 mg/dL
   4.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   35 mg/dL
   95 mEq/L
   136 mEq/L
   39.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2136-6-8**]  04:45 AM
                             [**2136-6-8**]  08:00 AM
                             [**2136-6-9**]  03:01 AM
   WBC
   13.1
   9.3
   Hct
   39.7
   39.0
   Plt
   516
   559
   Cr
   3.5
   4.7
   Glucose
   96
   90
   Other labs: PT / PTT / INR:15.0/27.6/1.3, Albumin:3.6 g/dL, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
    62 yo F w/ ESRD on HD, DM, diastolic CHF, history of multiple prior
   line infections presents with fevers from HD, mild tachycardia, pus
   from urine cath, abd pain and now with GPC (clusters) bacteremia ([**1-22**]
   bottles).
   1) Fever, lekocytosis/ ? hypotension
   Infectious sources include line, SBE, +/- urine infection, wounds-
   healing
   Abd CT unremarkable for abscess
   Lactates normalized
   Remains w/ mild tachycardia
> in setting of fever
   -  gentle hydration and POs
   -  BP hard to measure but mentating well and appear to be at baseline
   (pt refused a-line and also with hx/o calciphylaxis)
   - continue empiric antibx
 Vanc (GPC bacteremia) + Cefepime for ? UTI
   -- likely need to change HD line
 u/s line site, check TEE given abnl
   mv and bacteremia, ID (follows with ID as outpt)
   -  f/u cxs data
   2.) abd pain/flank pain
   Ct urogram unrevealing and exam is benign
   ? constipation
   Bowel reg
   Lactates normalized
   ? UTI
pus with u cath but anuric at baseline
   Urology, f/u cx results
   3) Leg ulcers
   Inspect at dsg change. ? Infection. ? Add anaerobic coverage.
   Wound care
   4) CRF on HD
   Inform renal
   f/u lytes
   phos binder
   5) Metabolic alkalosis
   Refuses ABG, a-line
   Likely chronic retention + appeared contrated on presentation
   Follow lytes
   6) OSA
   Intolerant to cpap
   Nocturnal o2
   Follow bicarb.
   7) Hx of DVT
   Off coumadin. On sq heparin and boots for prophy
   8) DM: Outpatient regimen
   9) diastolicCHF: on ASA, statin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-6-7**] 11:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: